US06166006
To a mixture of N-[4-(hydroxymethyl)phenyl]-7-phenyl-3,4-dihydronaphthalene-2-carboxamide (566 mg), lithium chloride (135 mg), triethylamine (446 μl) and dichloromethane (50 ml) was added methanesulfonyl chloride (172 μl), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added dilute hydrochloric acid. The organic layer was separated, washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give N-[4-(chloromethyl)phenyl]-7-phenyl-3,4-dihydronaphthalene-2-carboxamide (494 mg) as colorless crystals.

reactant | N-[4-(hydroxymethyl)phenyl]-7-phenyl-3,4-dihydronaphthalene-2-carboxamide | 566 mg | OCC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2CC1)C1=CC=CC=C1 | C24H21NO2
reactant | lithium chloride | 135 mg | [Cl-].[Li+]
reactant | methanesulfonyl chloride | 172 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 446 μl | C(C)N(CC)CC | C6H15N
product | N-[4-(chloromethyl)phenyl]-7-phenyl-3,4-dihydronaphthalene-2-carboxamide | 494 mg | ClCC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2CC1)C1=CC=CC=C1 | C24H20ClNO
